US05219871
Preparation of 4-[N-(2-{2,3-dihydrobenzofur-5-yl}ethyl)-N-methylamino]-2,2-diphenylbutanamide
A mixture containing 1-cyano-1,1-diphenyl-3-[N-{2-(2,3-dihydrobenzofur-5-yl)ethyl}-N-methylamino]propane (0.087 g), potassium hydroxide (0.074 g), ethanol (6 ml) and water (6 ml) was heated at 140° C. in a stainless steel pressure vessel for 48 hours. On cooling to room temperature the mixture was concentrated in vacuo. Water (20 ml) was added to the residue and the mixture was extracted with dichloromethane (3×20 ml). The combined dichloromethane extracts were dried (Na2SO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 10%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a glass, yield 0.056 g.

reactant | 1-cyano-1,1-diphenyl-3-[N-{2-(2,3-dihydrobenzofur-5-yl)ethyl}-N-methylamino]propane | 0.087 g | C(#N)C(CCN(C)CCC=1C=CC2=C(CCO2)C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28N2O
reactant | potassium hydroxide | 0.074 g | [OH-].[K+]
reactant | ethanol | 6 ml | C(C)O | C2H6O
solvent | water | 6 ml | O | H2O
product | 4-[N-(2-{2,3-dihydrobenzofur-5-yl}ethyl)-N-methylamino]-2,2-diphenylbutanamide | O1CCC2=C1C=CC(=C2)CCN(C)CCC(C(=O)N)(C2=CC=CC=C2)C2=CC=CC=C2 | C27H30N2O2
